US06495546B1
Under nitrogen, to a solution of N-allyl-N-phenyl-benzyloxycarbonylamine (5.5 g) in dichloromethane (50 ml) was added m-chloroperbenzoic acid (3.9 g) at 5° C., and the mixture was stirred at room temperature for 3 days. The resulting mixture was poured into aqueous sodium hydrogensulfite and extracted with ethyl acetate. The organic layer was successively washed with saturated aqueous sodium hydrogencarbonate and brine, dried over anhydrous magnesium sulfate and evaporated in vacuo. The residue was purified by column chromatography on silica gel (hexane:ethyl acetate=10:1 to 5:1) to give 1-(N-benzyloxycarbonyl-N-phenylamino)-2,3-epoxypropane (2.2 g).

reactant | N-allyl-N-phenyl-benzyloxycarbonylamine | 5.5 g | C(C=C)N(C1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | C17H17NO2
reactant | m-chloroperbenzoic acid | 3.9 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium hydrogensulfite | S(=O)(O)[O-].[Na+]
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 1-(N-benzyloxycarbonyl-N-phenylamino)-2,3-epoxypropane | 2.2 g | C(C1=CC=CC=C1)OC(=O)N(C1=CC=CC=C1)CC1CO1 | C17H17NO3
